US04727081
N-Cyclohexyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarboxamide
The compound is prepared by a method analogous to that of Example 20 from N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carboxamide and cyclohexyl isocyanate. The analytical values are summarized in Table I.

reactant | N-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]-hydrazine carboxamide | N1(CCCCC1)CC=1C=C(OCCCNC(=O)NN)C=CC1 | C16H26N4O2
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | N-Cyclohexyl-N'-[3-[3-(1-piperidinylmethyl)phenoxy]propyl]1,2-hydrazine dicarboxamide | C1(CCCCC1)NC(=O)NNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1 | C23H37N5O3
